* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1251.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
X§U1 IN1 N001 FADE N003 0 N005 -V OUT +V 0 N004 2.5 N002 IN2 LT1251
R1 N002 OUT 1.5K
R2 N001 OUT 1.5K
V3 2.5 0 2.5
V4 IN1 0 SINE(0 1 1Meg)
V5 IN2 0 PULSE(-1 1 0 1n 1n .5u 1u)
V6 FADE 0 PWL(0 0 50u 2.5)
.tran 50u
* Two-Input Video Fader
.lib LTC.lib
.backanno
.end
